US06583135B2
Preparation of 3-Benzoyl-10-(3-phenoxypropyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole
A dry flask was charged with 3-(3-benzoyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indol-10-yl)-1-propanol (0.214 g, 0.61 mmol), triphenylphosphine (0.178 g, 0.68 mmol), phenol (0.064 g, 0.68 mmol) and tetrahydrofuran (5.0 mL). Under a N2 atmosphere, diethylazodicarboxylate (0.11 mL, 0.68 mmol) was added. The mixture stirred for 0.5 hours at room temperature and was evaporated in vacuo. The ether product was purified by flash chromatography (90 g SiO2, 1% MeOH/CH2Cl2) providing 0.145 g of the title compound (mp 121-124° C.). IR (drift) 3236, 3210, 2940, 1604, 1496, 1466, 1430, 1298, 1258, 1238, 1046, 928, 751, 739; 704 cm−1.

reactant | 3-(3-benzoyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indol-10-yl)-1-propanol | 0.61 mmol, 0.214 g | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)CCCO | C22H24N2O2
reactant | triphenylphosphine | 0.68 mmol, 0.178 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phenol | 0.68 mmol, 0.064 g | C1(=CC=CC=C1)O | C6H6O
reactant | diethylazodicarboxylate | 0.68 mmol, 0.11 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
product | 3-Benzoyl-10-(3-phenoxypropyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 0.145 g | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)CCCOC1=CC=CC=C1 | C28H28N2O2
